US09145411B2
Step 2: N-(3-(2-(2-aminopyrimidin-5-yl)-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)-4-fluorobenzenesulfonamide
To a 25 mL flask, tert-butyl (5-(7-(3-(4-fluorophenylsulfonamido)phenyl)-4-morpholino-pyrido[3,2-d]pyrimidin-2-yl)pyrimidin-2-yl)carbamate (0.06 g, 0.00009 mol) and DCM (9 mL) were added. To the same reaction vessel, trifluoroacetic acid (0.5 mL) was added. The reaction mixture was stirred at room temperature for 3 hours. The volatiles were evaporated under reduced pressure to provide the residue. The residue was washed with ether and was dissolved in 10% methanol in DCM. The organic layer was basified with saturated sodium bicarbonate solution (pH 8.0). The organic layer was washed with water, brine, dried over sodium sulfate and evaporated under reduced pressure to provide the crude product. The crude product was washed with methanol and diethyl ether to provide the solid. The solid was dried under high vacuum to provide the title compound (0.031 g, 60%). 1H NMR (400 MHz, DMSO-d6): δ 10.57 (s, 1H), 9.20 (s, 2H), 8.92 (d, J=2.4 Hz, 1H), 8.16 (d, J=2.4 Hz, 1H), 7.90-7.87 (m, 2H), 7.63 (d, J=7.6 Hz, 1H), 7.55 (br s, 1H), 7.46-7.40 (m, 3H), 7.22 (br s, 2H), 7.20 (s, 1H) 4.52 (br s, 4H), 3.84 (t, J=4.4 Hz, 4H). LC-MS (ESI): Calculated mass: 558.1; Observed mass [M+H]+: 558.9 (RT=1.19 min).

reactant | tert-butyl (5-(7-(3-(4-fluorophenylsulfonamido)phenyl)-4-morpholino-pyrido[3,2-d]pyrimidin-2-yl)pyrimidin-2-yl)carbamate | 0.00009 mol, 0.06 g | FC1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C=CC1)C1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)C=1C=NC(=NC1)NC(OC(C)(C)C)=O | C32H31FN8O5S
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 9 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(2-(2-aminopyrimidin-5-yl)-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)-4-fluorobenzenesulfonamide | 0.031 g, 60% | NC1=NC=C(C=N1)C=1N=C(C2=C(N1)C=C(C=N2)C=2C=C(C=CC2)NS(=O)(=O)C2=CC=C(C=C2)F)N2CCOCC2 | C27H23FN8O3S
